US04892872
To a solution of 220 g of 2-(2-carboxy-4-chlorophenoxy) propionic acid in 550 ml of concentrated sulfuric acid is added dropwise a mixed liquid of 44 ml of fuming nitric acid and concentrated sulfuric acid under stirring with keeping at a temperature below 10° C. After the addition, the reaction mixture is stirred below 10° C. for 3 hours and poured into 10 1 of ice-cold water. The precipitated crystals are collected by filtration, washed with 2 1 of water four times and them dried to give 190 g of 2-(2-carboxy-4-chloro-6-nitrophenoxy)propionic acid, melting at 190° C.

reactant | 2-(2-carboxy-4-chlorophenoxy) propionic acid | 220 g | C(=O)(O)C1=C(OC(C(=O)O)C)C=CC(=C1)Cl | C10H9ClO5
reactant | nitric acid | 44 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 550 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(2-carboxy-4-chloro-6-nitrophenoxy)propionic acid | 190 g | C(=O)(O)C1=C(OC(C(=O)O)C)C(=CC(=C1)Cl)[N+](=O)[O-] | C10H8ClNO7
